### PR TITLE
[Merged by Bors] - feat: add List.foldl_concat and List.foldr.concat

### PR DESCRIPTION
**Pull request by tobiasgrosser**
These are special versions of List.fold[lr]_append in case a single element list is appended.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -2416,6 +2416,18 @@ theorem foldr_cons (f : α → β → β) (b : β) (a : α) (l : List α) :
...
+theorem List.foldl_concat
+  (f: β → α → β) (b: β) (x: α) (xs: List α) :
+  List.foldl f b (xs ++ [x]) = f (List.foldl f b xs) x := by
+    simp only [List.foldl_append, List.foldl]
+
+@[simp]
+theorem List.foldr_concat
+  (f: α → β → β) (b: β) (x: α) (xs: List α) :
+  List.foldr f b (xs ++ [x]) = (List.foldr f (f x b) xs) := by
+    simp only [List.foldr_append, List.foldr]
```
Comment (ChrisHughes24) [inline Mathlib/Data/List/Basic.lean:2429]:
```suggestion
@[simp]
theorem foldl_concat
    (f: β → α → β) (b: β) (x: α) (xs: List α) :
    List.foldl f b (xs ++ [x]) = f (List.foldl f b xs) x := by
  simp only [List.foldl_append, List.foldl]

@[simp]
theorem foldr_concat
    (f: α → β → β) (b: β) (x: α) (xs: List α) :
    List.foldr f b (xs ++ [x]) = (List.foldr f (f x b) xs) := by
  simp only [List.foldr_append, List.foldr]
```

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -2416,6 +2416,18 @@ theorem foldr_cons (f : α → β → β) (b : β) (a : α) (l : List α) :
 
 #align list.foldr_append List.foldr_append
 
+@[simp]
+theorem foldl_concat
+    (f: β → α → β) (b: β) (x: α) (xs: List α) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/List/Basic.lean:2421]:
```suggestion
    (f : β → α → β) (b : β) (x : α) (xs : List α) :
```

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -2416,6 +2416,18 @@ theorem foldr_cons (f : α → β → β) (b : β) (a : α) (l : List α) :
...
+    List.foldl f b (xs ++ [x]) = f (List.foldl f b xs) x := by
+  simp only [List.foldl_append, List.foldl]
+
+@[simp]
+theorem foldr_concat
+    (f: α → β → β) (b: β) (x: α) (xs: List α) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/List/Basic.lean:2427]:
```suggestion
    (f : α → β → β) (b : β) (x : α) (xs : List α) :
```

File: Mathlib/Data/List/Basic.lean [hunk 4]
```diff
@@ -2416,6 +2416,18 @@ theorem foldr_cons (f : α → β → β) (b : β) (a : α) (l : List α) :
...
+theorem foldl_concat
+    (f : β → α → β) (b : β) (x : α) (xs : List α) :
+    List.foldl f b (xs ++ [x]) = f (List.foldl f b xs) x := by
+  simp only [List.foldl_append, List.foldl]
+
+@[simp]
+theorem foldr_concat
+    (f : α → β → β) (b : β) (x : α) (xs : List α) :
+    List.foldr f b (xs ++ [x]) = (List.foldr f (f x b) xs) := by
+  simp only [List.foldr_append, List.foldr]
```
Comment (ChrisHughes24) [inline Mathlib/Data/List/Basic.lean:2429]:
```suggestion
theorem foldl_concat
    (f : β → α → β) (b : β) (x : α) (xs : List α) :
    List.foldl f b (xs ++ [x]) = f (List.foldl f b xs) x := by
  simp only [List.foldl_append, List.foldl]

theorem foldr_concat
    (f : α → β → β) (b : β) (x : α) (xs : List α) :
    List.foldr f b (xs ++ [x]) = (List.foldr f (f x b) xs) := by
  simp only [List.foldr_append, List.foldr]
```

**Comment by ChrisHughes24** [comment]
bors merge
